US07994185B2
N-(3-{2-(1,1-dimethylethyl)-5-[2-(3-hydroxy-3-methylbutyl)-4-pyrimidinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 247 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.278 mmol) and 2-Methyl-3-buten-2-ol (0.087 ml, 0.835 mmol), the title compound was obtained as a solid (86 mg, 52% yield). 1H NMR (400 MHz, DMSO-d6) ppm 10.88 (s, 1H), 8.47 (dd, J=5.31, 1.46 Hz, 1H), 7.67 (m, 1H), 7.43 (m, 2H), 7.31 (t, J=8.15 Hz, 1H), 7.23 (t, J=9.61 Hz, 2H), 6.63 (d, J=4.94 Hz, 1H), 4.29 (s, 1H), 2.87 (m, 2H), 1.78 (d, J=8.42 Hz, 2H), 1.43 (d, J=1.46 Hz, 9H), 1.13 (d, J=1.28 Hz, 6H); MS (ESI): 591 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.278 mmol, 0.15 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | 2-Methyl-3-buten-2-ol | 0.835 mmol, 0.087 ml | CC(C)(C=C)O | C5H10O
product | N-(3-{2-(1,1-dimethylethyl)-5-[2-(3-hydroxy-3-methylbutyl)-4-pyrimidinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)CCC(C)(C)O | C28H29F3N4O3S2
